US04080192
a) Preparation of Ethyl 2-oxo-1-piperidineacetate
9.9 parts of δ-valerolactam (purchased from Aldrich Chemical Co., Milwaukee, Wisc. 53233) were dissolved in 100 part of dimethylformamide. To this solution was added 4.8 parts of a 50% dispersion of sodium hydride in mineral oil (purchased from Callgary Chemical Company, Callgary, Pa.). The reaction mixture was stirred for a period of 30 minutes. To the above reaction mixture 16.7 parts of ethylbromoacetate was added dropwise keeping the temperature less than 25° C during the addition. After the addition was completed, the reaction was stirred at room temperature for an additional 30 minutes. The reaction mass was poured into 200 parts of water. The product was isolated by extraction from the aqueous solution with three successive 200-part portions of methylene chloride. The combined organic extracts of the product were dried with anhydrous sodium sulfate. The solution of the product was filtered and the solvent was removed by evaporation at a reduced pressure of 50-300 mm on a rotary evaporator. The crude product obtained was further purified by vacuum distillation at 115° -120° C at 1.5 mm; 8.2 parts of product were obtained.

reactant | δ-valerolactam | C1(CCCCN1)=O | C5H9NO
reactant | sodium hydride | [H-].[Na+]
reactant | ethylbromoacetate | C(C)OC(CBr)=O | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 2-oxo-1-piperidineacetate | O=C1N(CCCC1)CC(=O)OCC | C9H15NO3
